US08492378B2
(1S)-1-[5-[3-[4-(methylthio)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethyl acetate
In the same manner as in Reference Example 19 and using (1S)-1-[5-(3-bromo-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]ethyl acetate instead of methyl 3-iodoimidazo[1,2-a]pyridine-6-carboxylate and [4-(methylthio)phenyl]boronic acid instead of (4-methoxyphenyl)boronic acid, the title compound (yield 64%) was obtained as colorless crystals.

reactant | (1S)-1-[5-(3-bromo-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]ethyl acetate | C(C)(=O)O[C@@H](C)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)Br)C1 | C14H11BrN2O4
reactant | [4-(methylthio)phenyl]boronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | (1S)-1-[5-[3-[4-(methylthio)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethyl acetate | yield 64% | C(C)(=O)O[C@@H](C)C=1OC(=NN1)C=1C=CC2=C(C(=CO2)C2=CC=C(C=C2)SC)C1 | C21H18N2O4S
